data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC=CCC_2-CC(C)C_3-C(C(F)(F)F)C(F)(F)F_4-c1ccc(C#N)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC=CCCC(=O)[H]","CC(C)COC(=O)CP(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC=CCC/C=C\\C(=O)OCC(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)COC(=O)[CH-]P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C(P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1))C([O-])CC=CCC","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C1C(CC=CCC)OP1([O-])(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC=CCC/C=C\\C(=O)OCC(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-135_1-c1ccc(Cl)cc1_2-SC_3-Br_4-c1ccc(F)cc1","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccc(Cl)cc1)(SC)=C(Br)C(=O)(c1ccc(F)cc1)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccc(Cl)cc1)(SC)=C(Br)C(O)(c1ccc(F)cc1)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(Cl)cc1)(SC)=C(Br)C(=[O+][Ce-](Cl)(Cl)Cl)(c1ccc(F)cc1)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)(SC)=C(Br)C(O[Ce-](Cl)(Cl)Cl)(c1ccc(F)cc1)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(SC)=C(Br)C(O)(c1ccc(F)cc1)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
